US09034866B2
Synthesis of (±)-10-(4-(azetidin-1-yl)-3-hydroxy-3-methyl-4-oxobut-1-yn-1-yl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 1-(azetidin-1-yl)-2-hydroxy-2-methylbut-3-yn-1-one to give the titled compound as a yellow solid (40 mg, 22%).

reactant | 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F | C12H9BrFN3O2
reactant | 1-(azetidin-1-yl)-2-hydroxy-2-methylbut-3-yn-1-one | N1(CCC1)C(C(C#C)(C)O)=O | C8H11NO2
product | (±)-10-(4-(azetidin-1-yl)-3-hydroxy-3-methyl-4-oxobut-1-yn-1-yl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 40 mg, 22% | N1(CCC1)C(C(C#CC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F)(C)O)=O | C20H19FN4O4
